US09334290B2
A mixture of 3-bromo-2-methylaniline (1.50 g, 8.06 mmol) and 6-fluoro-1H-benzo[d][1,3]oxazine-2,4-dione (1.46 g, 8.06 mmol) in toluene (40 mL) was cooled on an ice-water bath and treated portionwise with 2 M trimethylaluminum in toluene (10.1 mL, 20.2 mmol). The mixture was stirred at room temperature for 30 min, then was heated at 70° C. overnight. The mixture was cooled to 0° C., carefully treated with 1M aqueous HCl, and extracted 3 times with EtOAc. The combined organic phases were washed sequentially with saturated aqueous NaHCO3 and water, dried and concentrated. The residue was subjected to column chromatography on silica gel (120 g), eluting with EtOAc-hexanes (gradient from 5-40%), to provide 2-amino-N-(3-bromo-2-methylphenyl)-5-fluorobenzamide (0.893 g, 87% purity, 30% yield). Mass spectrum m/z 323, 325 (M+H)+. 1H NMR (400 MHz, MeOH-d4) δ 7.54 (1H, dd, J=8.03, 0.99 Hz), 7.48 (1 H, dd, J=9.68, 3.08 Hz), 7.33 (1 H, d, J=7.26 Hz), 7.16 (1 H, t, J=7.92 Hz), 7.04-7.12 (1 H, m), 6.83 (1 H, dd, J=9.02, 4.62 Hz), 2.39 (3 H, s).

reactant | 3-bromo-2-methylaniline | 8.06 mmol, 1.50 g | BrC=1C(=C(N)C=CC1)C | C7H8BrN
reactant | 6-fluoro-1H-benzo[d][1,3]oxazine-2,4-dione | 8.06 mmol, 1.46 g | FC1=CC2=C(NC(OC2=O)=O)C=C1 | C8H4FNO3
reactant | trimethylaluminum | 2 M | C[Al](C)C
reactant | HCl | 1M | Cl | ClH
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20.2 mmol, 10.1 mL | C1(=CC=CC=C1)C | C7H8
product | 2-amino-N-(3-bromo-2-methylphenyl)-5-fluorobenzamide | 0.893 g, 30% yield | NC1=C(C(=O)NC2=C(C(=CC=C2)Br)C)C=C(C=C1)F | C14H12BrFN2O
